US04117167
2,4,6-trichloroaniline (3.9 g.) was dissolved in dimethylformamide (20 ml.) and carefully added to sodium hydride (obtained by washing sodium hydride in mineral oil (2.0 g; 50%) with petrol) suspended in dimethylformamide (10 ml.) at 10° C. When the addition was complete the temperature of the mixture was allowed to rise to the ambient temperature over a period of 30 minutes, before being cooled to 10° C. A solution of 2-chloro-3,5-dinitrobenzotrifluoride (5.4 g.) in dimethylformamide (20 ml.) was slowly added, and the mixture stirred at the ambient temperature for 5 hours, and allowed to stand for further 16 hours. The mixture was poured into iced water and the resultant mixture acidified with concentrated hydrochloric acid. The precipitate was collected by decanting off the supernatant liquid and recrystallised from methylated spirit to yield 2(2,4,6-trichloroanilino)-3,5-dinitrobenzotrifluoride, melting point 105° C.

reactant | 2,4,6-trichloroaniline | 3.9 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 5.4 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2(2,4,6-trichloroanilino)-3,5-dinitrobenzotrifluoride | ClC1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C(=CC(=C1)Cl)Cl | C13H5Cl3F3N3O4
